US07846928B2
Preparation of 1-[4-(6-Isopropyl-1H-pyrazolo[3,4-b]pyridin-4-yl)-phenyl]-3-(3-trifluoromethyl-phenyl)-urea
In analogy to GP 6, reaction of 100 mg of 1-[4-(3-Amino-6-isopropyl-1H-pyrazolo[3,4-b]pyridin-4-yl)-phenyl]-3-(3-trifluoromethyl-phenyl)-urea (0.22 mmol, 1 eq.) with 35 μL concentrated sulphuric acid and 37 mg sodium nitrite (2.5 eq.) yielded 72 mg of the desired product (74% yield).

reactant | 1-[4-(3-Amino-6-isopropyl-1H-pyrazolo[3,4-b]pyridin-4-yl)-phenyl]-3-(3-trifluoromethyl-phenyl)-urea | 0.22 mmol, 100 mg, 1 eq. | NC1=NNC2=NC(=CC(=C21)C2=CC=C(C=C2)NC(=O)NC2=CC(=CC=C2)C(F)(F)F)C(C)C | C23H21F3N6O
reactant | sulphuric acid | 35 μL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 37 mg, 2.5 eq. | N(=O)[O-].[Na+]
product | 1-[4-(6-Isopropyl-1H-pyrazolo[3,4-b]pyridin-4-yl)-phenyl]-3-(3-trifluoromethyl-phenyl)-urea | 72 mg, 74% yield | C(C)(C)C1=CC(=C2C(=N1)NN=C2)C2=CC=C(C=C2)NC(=O)NC2=CC(=CC=C2)C(F)(F)F | C23H20F3N5O
